US04155747
N-(3-Fluoro-4-isopropyl-phenyl)-N'-methyl-urea (one mol=210 g.) and polyoxymethylene (1 mol=90 g.) are dissolved in toluene (800 cc.) in the presence of para-toluenesulphonic acid (0.3 mol=51.6 g.) as a catalyst and of dimethylformamide (0.3 mol=22 g.), and the mixture is heated for 15 minutes at 80° C. After having washed the solution with water and then concentrated it, 3-(3-fluoro-4-isopropyl-phenyl)-5-methyltetrahydro-1,3,5-oxadiazin-4-one is obtained in the form of an oil which is purified by dissolving in hot hexane and recrystallising.

reactant | N-(3-Fluoro-4-isopropyl-phenyl)-N'-methyl-urea | one mol, 210 g | FC=1C=C(C=CC1C(C)C)NC(=O)NC | C11H15FN2O
reactant | polyoxymethylene | 1 mol, 90 g | O(C[*:2])[*:1]
reactant | dimethylformamide | 0.3 mol, 22 g | CN(C=O)C | C3H7NO
reactant | toluene | 800 cc | C1(=CC=CC=C1)C | C7H8
catalyst | para-toluenesulphonic acid | 0.3 mol, 51.6 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 3-(3-fluoro-4-isopropyl-phenyl)-5-methyltetrahydro-1,3,5-oxadiazin-4-one | Yield: 82% | FC=1C=C(C=CC1C(C)C)N1COCN(C1=O)C | C13H17FN2O2
